US08017558B2
0.3 g (1.4 mmol) of phosphorus pentasulphide is added to a solution consisting of 0.48 g (1.4 mmol) of N-(2-bicyclo[2.2.1]hept-2-ylphenyl)-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxamide in 20 ml of toluene, and the reaction mixture is stirred at 70° C. for 2 hours. For work-up, the reaction mixture is poured into water and extracted once with 20 ml of toluene and twice with in each case 20 ml of ethyl acetate. The combined organic phases are dried over sodium sulphate and concentrated under reduced pressure. Column chromatography (gradient cyclohexane/ethyl acetate) gives 0.32 g (0.89 mmol, 63% of theory) of N-(2-bicyclo[2.2.1]hept-2-ylphenyl)-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-thiocarboxamide [logP (pH 2.3)=3.66].

reactant | phosphorus pentasulphide | 1.4 mmol, 0.3 g | P12(=S)SP3(=S)SP(=S)(S1)SP(=S)(S2)S3 | P4S10
reactant | N-(2-bicyclo[2.2.1]hept-2-ylphenyl)-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-carboxamide | 1.4 mmol, 0.48 g | C12C(CC(CC1)C2)C2=C(C=CC=C2)NC(=O)C=2C(=NN(C2)C)C(F)F | C19H21F2N3O
reactant | water | O | H2O
reactant | cyclohexane ethyl acetate | C1CCCCC1.C(C)(=O)OCC
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | N-(2-bicyclo[2.2.1]hept-2-ylphenyl)-3-(difluoromethyl)-1-methyl-1H-pyrazole-4-thiocarboxamide | 0.89 mmol, 0.32 g, pH 2.3, 63% | C12C(CC(CC1)C2)C2=C(C=CC=C2)NC(=S)C=2C(=NN(C2)C)C(F)F | C19H21F2N3S
